US08957064B2
5-{4-[4-(6-fluoro-1H-benzoimidazol-2-yl)-piperidin-1-ylmethyl]-phenyl}-2-methyl-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidine
200 mg (0.64 mmol)-4-(2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde and 184 mg (0.76 mmol) 6-fluoro-2-piperidine-4-yl-1H-benzimidazole hydrochloride salt were treated as described in example 2.0. Additional NaBH(OAc)3 has been added after 24 and 26 hours (two equivalents each). After stirring at room temperature for five days and the usual workup und purification 142 mg of the desired compound have been obtained.

reactant | 4-(2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | CC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1 | C19H14N4O
reactant | 6-fluoro-2-piperidine-4-yl-1H-benzimidazole hydrochloride salt | 0.76 mmol, 184 mg | Cl.FC=1C=CC2=C(NC(=N2)C2CCNCC2)C1
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 5-{4-[4-(6-fluoro-1H-benzoimidazol-2-yl)-piperidin-1-ylmethyl]-phenyl}-2-methyl-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidine | FC=1C=CC2=C(NC(=N2)C2CCN(CC2)CC2=CC=C(C=C2)C2=NC=3N(C=C2C2=CC=CC=C2)N=C(N3)C)C1 | C31H28FN7
